US04478842
To a suspension of 2.9 g (0.06 mole) of 50% sodium hydride in mineral oil in 40 ml of dimethylformamide under nitrogen at 0°-5° is added dropwise over 20 minutes a solution of 10.4 g of 3-methyl-2-(3-pyridyl)indole in 60 ml of dimethylformamide. The mixture is stirred for 0.5 hour at 0°-5° followed by the dropwise addition of 17.6 g (0.06 mole) of 1-tetrahydropyranyloxy-8-bromooctane in 50 ml of dimethylformamide. After stirring at 0°-10° for 1 hour and at room temperature for 0.5 hour, the reaction mixture is poured into ice-water and extracted with ether. The ether extract is washed with water, dried over MgSO4 and evaporated to dryness. The residue is dissolved in 100 ml of 3N hydrochloric acid, the resulting mixture is kept at room temperature for 0.5 hour, washed with ether, basified with aqueous with 3N sodium hydroxide solution and extracted with methylene chloride. The methylene chloride solution is evaporated to dryness to give 1-(8-hydroxyoctyl)-2-(3-pyridyl)-3-methylindole.

reactant | sodium hydride | 0.06 mole, 2.9 g | [H-].[Na+]
reactant | 3-methyl-2-(3-pyridyl)indole | 10.4 g | CC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C14H12N2
reactant | 1-tetrahydropyranyloxy-8-bromooctane | 0.06 mole, 17.6 g | O1C(CCCC1)OCCCCCCCCBr | C13H25BrO2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(8-hydroxyoctyl)-2-(3-pyridyl)-3-methylindole | OCCCCCCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C22H28N2O
